US04035252
A 200 ml. glass beaker having inserted therein a porous unglazed cylinder (40 mm. diameter × 140 mm. length) was used as the electrolytic apparatus and a copper plate (40 × 180 mm2) as the cathode and a palladium plate (30 × 40 mm2) as the anode were used. In the anode chamber (the porous unglazed cylinder) was added 50 ml. of a saturated aqueous sodium carbonate solution and in the cathode chamber (the glass beaker) were added 70 ml. of a 2 N aqueous sodium carbonate solution and 30 ml. of methanol. Then, after carrying out pre-electrolysis for several minutes while passing carbon dioxide through the catholyte solution, 1.56 g. of the powder of 1-ethyl-2-nitromethylenepyrrolidine was added to the cathode chamber and current of 1 ampere was electrified for 2.5 hours with stirring at 20°-23° C. while passing carbon dioxide through the catholyte solution to carry out the electrolysis. Then, by treating the product as in Example 1, 1.22 g. of oily 2-aminomethyl-1-ethylpyrrolidine was obtained with a yield of 95%.

reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium carbonate | 2 N | C([O-])([O-])=O.[Na+].[Na+]
reactant | carbon dioxide | C(=O)=O | CO2
reactant | 1-ethyl-2-nitromethylenepyrrolidine | C(C)N1C(CCC1)=C[N+](=O)[O-] | C7H12N2O2
catalyst | copper | [Cu] | Cu
catalyst | palladium | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 2-aminomethyl-1-ethylpyrrolidine | yield of 95% | NCC1N(CCC1)CC | C7H16N2
